US07572809B2
Similar procedure as described in example 10 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 2-methyl-propan-1-ol to give (1-isobutoxy-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine. LC-MS m/e 313 (MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | 2-methyl-propan-1-ol | CC(CO)C | C4H10O
product | (1-isobutoxy-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | C(C(C)C)OC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C17H20N4O2
